US05403861
A solution of cyanogen bromide (1.59 g, 15 mmol) in diethylether (20) was added dropwise to a solution of 4-isopropylaniline (3.24 g) in diethylether (50 mL) at 4° C. with stirring. After the addition, the reaction mixture was kept stirring at room temperature for 18 h. Then a solution with white precipitates formed and the precipitates were removed by filtration. The etherate solution was washed with aqueous HCl (1N, 30 mL, two times) as well as brine, dried over MgSO4, filtered, concentrated, and dried under vacuum to yield 4-isopropylphenyl cyanamide (2.0 g, 84%).

reactant | cyanogen bromide | 15 mmol, 1.59 g | N#CBr | CBrN
reactant | 4-isopropylaniline | 3.24 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
solvent | diethylether | C(C)OCC | C4H10O
solvent | diethylether | 50 mL | C(C)OCC | C4H10O
product | 4-isopropylphenyl cyanamide | 2.0 g, 84% | C(C)(C)C1=CC=C(C=C1)NC#N | C10H12N2
